US07470710B2
(RS)-1-[2-(5,6-Difluoro-1-methyl-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-hydroxymethyl-thiazol-4-yl]-methanone
The title compound (15 mg) was prepared from 5-(4-fluoro-phenyl)-2-hydroxymethyl-thiazol-4-carboxylic acid (84 mg) and (RS)-5,6-difluoro-1-methyl-2-piperidin-2-ylmethyl-1H-benzoimidazole, D61 (86 mg) by a procedure similar to that described for Example 4.

reactant | 5-(4-fluoro-phenyl)-2-hydroxymethyl-thiazol-4-carboxylic acid | 84 mg | FC1=CC=C(C=C1)C1=C(N=C(S1)CO)C(=O)O | C11H8FNO3S
reactant | (RS)-5,6-difluoro-1-methyl-2-piperidin-2-ylmethyl-1H-benzoimidazole | FC1=CC2=C(N(C(=N2)CC2NCCCC2)C)C=C1F | C14H17F2N3
product | (RS)-1-[2-(5,6-Difluoro-1-methyl-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-hydroxymethyl-thiazol-4-yl]-methanone | 15 mg | FC1=CC2=C(N(C(=N2)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)CO)C)C=C1F | C25H23F3N4O2S
